US06670447B2
Synthesis of (S)-3-benzoyl-4-isopropyl-2,5-oxazolidinedione (L-N-benzoylvaline-NCA)
Benzoyl chloride (295 mg, 2.1 mmol) was dissolved in ethyl acetate (21 mL), followed by the addition of (S)-4-isopropyl-2,5-oxazolidinedione (L-valine-NCA) (286 mg, 2.0 mmol) under ice cooling. Further, a solution of 4-dimethylaminopyridine (257 mg, 2.1 mmol) in ethyl acetate (11 mL) was added dropwise under ice cooling over 20 minutes. The resulting mixture was allowed to rise as was in temperature from 09. After the mixture was stirred at room temperature for 2 hours, a precipitated salt was filtered off, and the filtrate was concentrated under reduced pressure. The concentration residue was re-dissolved in a mixed solvent consisting of ethyl acetate (5 mL) and hexane (5 mL), and insoluble matter was filtered off. The filtrate was concentrated under reduced pressure to afford the title compound as white crystals (351 mg, 80%).

reactant | Benzoyl chloride | 2.1 mmol, 295 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (S)-4-isopropyl-2,5-oxazolidinedione | 2.0 mmol, 286 mg | C(C)(C)[C@@H]1NC(OC1=O)=O | C6H9NO3
solvent | ethyl acetate | 21 mL | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 2.1 mmol, 257 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 11 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-benzoyl-4-isopropyl-2,5-oxazolidinedione | 351 mg, 80% | C(C1=CC=CC=C1)(=O)N1C(OC([C@@H]1C(C)C)=O)=O | C13H13NO4
